US07875618B2
To a mixture of intermediate N-(4-fluoro-2-methoxy-6-(4-methyl-2-(3-methylpyridin-4-yl)-1H-imidazol-1-yl)phenyl)acetamide (1.58 g, 4.46 mmol) and P2O5 (3.16 g, 22.3 mmol) was added 60 mL of POCl3 under nitrogen. The resulting mixture was stirred at 120° C. for 6 hours and cooled to room temperature. Majority of solvent was removed under vacuum and the residue was diluted with ethyl acetate. The mixture was transferred very carefully into iced-50% NaOH solution. The mixture was stirred for 10 minutes (make sure pH>7) and extracted with ethyl acetate (3×). Condensation and column purification using 4-8% MeOH in dichloromethane as eluent provided 880 mg (60% yield) of 8-fluoro-6-methoxy-3,4-dimethyl-1-(3-methylpyridin-4-yl)imidazo[1,5-a]quinoxaline as an offwhite powder. 1H NMR (400 MHz, DMSO) δ ppm 8.68 (s, 1H), 8.60 (d, 1H), 7.48 (d, 1H), 7.00 (dd, 1H), 6.16 (dd, 1H), 3.88 (s, 3H), 2.75 (s, 3H), 2.69 (s, 3H), 1.98 (s, 3H). EIMS 337.1 [M+H]+.

reactant | N-(4-fluoro-2-methoxy-6-(4-methyl-2-(3-methylpyridin-4-yl)-1H-imidazol-1-yl)phenyl)acetamide | 4.46 mmol, 1.58 g | FC1=CC(=C(C(=C1)N1C(=NC(=C1)C)C1=C(C=NC=C1)C)NC(C)=O)OC | C19H19FN4O2
reactant | P2O5 | 22.3 mmol, 3.16 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | POCl3 | 60 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | MeOH | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 8-fluoro-6-methoxy-3,4-dimethyl-1-(3-methylpyridin-4-yl)imidazo[1,5-a]quinoxaline | 880 mg, 60% yield | FC1=CC(=C2N=C(C=3N(C2=C1)C(=NC3C)C3=C(C=NC=C3)C)C)OC | C19H17FN4O
